US06995144B2
2-(1-Benzylpiperidin-4-yl)-1-(3-chloro-2-thienyl)ethanol
After dissolving 1.3 ml of diisopropylamine in 20 ml of tetrahydrofuran, 3.5 ml of n-butyllithium (2.66 M, n-hexane solution) was added dropwise while stirring at below −30° C. After stirring for 30 minutes while cooling on ice, 0.86 ml of 3-chlorothiophene was added dropwise. The mixture was stirred for another 30 minutes, and then a solution of 1.68 g of 1-benzyl-4-piperidineacetaldehyde in tetrahydrofuran (5 ml) was added and stirring was continued for 1 hour. Saturated aqueous ammonium chloride solution was added to the reaction solution and extraction was performed with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (1.53 g, 59% yield).

reactant | diisopropylamine | 1.3 ml | C(C)(C)NC(C)C | C6H15N
reactant | 3-chlorothiophene | 0.86 ml | ClC1=CSC=C1 | C4H3ClS
reactant | 1-benzyl-4-piperidineacetaldehyde | 1.68 g | C(C1=CC=CC=C1)N1CCC(CC1)CC=O | C14H19NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | n-butyllithium | 2.66 M, 3.5 ml | C(CCC)[Li]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(1-Benzylpiperidin-4-yl)-1-(3-chloro-2-thienyl)ethanol | 1.53 g, 59% yield | C(C1=CC=CC=C1)N1CCC(CC1)CC(O)C=1SC=CC1Cl | C18H22ClNOS
